US07981879B2
Step 3: N-(8-ethyl-2-{[(4-fluoro-3-methylbenzyl)amino]carbonyl}-3-hydroxy-4-oxo-4,6,7,8,9,10-hexahydropyrimido[1,2-d][1,4]diazepin-10-yl)-N,N′,N′-trimethylethanediamide
Crude methyl 10-[[(dimethylamino)(oxo)acetyl](methyl)amino]-8-ethyl-3-hydroxy-4-oxo-4,6,7,8,9,10-hexahydropyrimido[1,2-d][1,4]diazepine-2-carboxylate was dissolved in methanol and treated with 1.2 eq. of triethylamine and 1.2 eq. of 4-fluoro-3-methylbenzylamine. The reaction mixture was refluxed overnight, then cooled to room temperature and purified by RP HPLC (C18, 5 μM, H2O/MeCN with 1% of TFA as eluant) affording desired compound as a white solid. 1H NMR (300 MHz, CD3CN) δ 12.4 (bs, 1H), 9.74 (bs, 1H), 7.26-7.16 (m, 2H), 6.96 (t, J=8.62 Hz, 1H), 5.40-5.22 (m, 2H), 4.51 (dd, J=14.6 Hz, J=6.86 Hz, 1H), 4.42 (dd, J=14.6 Hz, J=6.41 Hz, 1H), 4.18-3.92 (m, 3H), 3.78-3.73 (ms, 1H), 3.28-3.18 (m, 3H), 3.01 (s, 3H), 2.95 (s, 3H), 2.93 (s, 3H), 2.21 (s, 3H), 1.30 (t, J=5.97 Hz, 3H). MS (ES) C24H31FN6O5 requires 502. Found: 503 (M+H+).

reactant | methyl 10-[[(dimethylamino)(oxo)acetyl](methyl)amino]-8-ethyl-3-hydroxy-4-oxo-4,6,7,8,9,10-hexahydropyrimido[1,2-d][1,4]diazepine-2-carboxylate | CN(C)C(C(=O)N(C1C=2N(CCN(C1)CC)C(C(=C(N2)C(=O)OC)O)=O)C)=O | C17H25N5O6
reactant | triethylamine | 1.2 eq. | C(C)N(CC)CC | C6H15N
reactant | 4-fluoro-3-methylbenzylamine | 1.2 eq. | FC1=C(C=C(CN)C=C1)C | C8H10FN
solvent | methanol | CO | CH4O
product | N-(8-ethyl-2-{[(4-fluoro-3-methylbenzyl)amino]carbonyl}-3-hydroxy-4-oxo-4,6,7,8,9,10-hexahydropyrimido[1,2-d][1,4]diazepin-10-yl)-N,N′,N′-trimethylethanediamide | C(C)N1CCN2C(C(C1)N(C(C(=O)N(C)C)=O)C)=NC(=C(C2=O)O)C(=O)NCC2=CC(=C(C=C2)F)C | C24H31FN6O5
